US06291530B1
To a solution of diethyl (E)-3-[4-(2,6-difluorobenzyloxy)-3-(3-hydroxypropoxy)-phenyl]-2-butenamide (2.22 g, 5.13 mmol) and anhydrous sodium acetate (5.05 g, 61.53 mmol) in CH2Cl2 (100 mL) is added pyridinium dichromate (6.63 g, 30.76 mmol) and the mixture is stirred for 2.5 hours. At this time, 2 g celite is added to the mixture, and the resulting mixture is filtered through celite, and the solid is washed with CH2Cl2 (50 mL). The filtrate is concentrated in vacuo, and the residue is filtered through a column of florisil, yielding N,N-diethyl (E)-3-[4-(2,6-difluorobenzyloxy)-3-(3-oxopropyloxy)-phenyl]-2-butenamide, as a brown oil. This crude product is carried on directly to the next step.

reactant | diethyl (E)-3-[4-(2,6-difluorobenzyloxy)-3-(3-hydroxypropoxy)-phenyl]-2-butenamide | 5.13 mmol, 2.22 g | C(C)C\C(=C(/C(=O)N)\CC)\C1=CC(=C(C=C1)OCC1=C(C=CC=C1F)F)OCCCO | C24H29F2NO4
reactant | sodium acetate | 61.53 mmol, 5.05 g | C(C)(=O)[O-].[Na+]
reactant | pyridinium dichromate | 30.76 mmol, 6.63 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N,N-diethyl (E)-3-[4-(2,6-difluorobenzyloxy)-3-(3-oxopropyloxy)-phenyl]-2-butenamide | C(C)N(C(\C=C(/C)\C1=CC(=C(C=C1)OCC1=C(C=CC=C1F)F)OCCC=O)=O)CC | C24H27F2NO4
